US07935835B2
(22a) 3-Ethylhexane-3,4-diol
590 mg (5.0 mmol) of dimethyloxalate was dissolved in 20 ml of tetrahydrofuran, and 22 ml (22 mmol) of 1.0 M ethyl magnesium bromide/tetrahydrofuran solution was added thereto with stirring under ice-cooling, followed by stirring for 2 hours at the same temperature. The reaction solution was made acidic by addition of 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was subjected to silica gel column chromatography (solvent; hexane:ethyl acetate=3:1) to give 276 mg of the title compound as an oil (yield: 38%).

reactant | dimethyloxalate | 5.0 mmol, 590 mg | COC(C(=O)OC)=O | C4H6O4
reactant | ethyl magnesium bromide tetrahydrofuran | 22 mmol, 1.0 M, 22 ml | C(C)[Mg]Br.O1CCCC1
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Ethylhexane-3,4-diol | 276 mg, yield: 38% | C(C)C(CC)(C(CC)O)O | C8H18O2
